US05036153
(2S, 4R)-2-Hydroxymethyl-4-hydroxy-1-(4-toluenesulfonyl)-pyrrolidine
To 2 1 of tetrahydrofuran (THF) was added 57.6 g (1523 mmol) of sodium borohydride and the mixture was cooled to 10° C. before 250 ml (1980 mmol) of borontrifluoride etherate was added dropwise over a period of 1 hour. Then 215.3 g (755.4 mmol) of 1-(4-toluenesulfonyl)-4-hydroxy-L-proline was added carefully in 100 ml of THF and the mixture was allowed to stir for 16 hours. The reaction was quenched with methanol and 10% aqueous hydrogen chloride solution was added and the mixture was gently heated to 60° C. for 1 hour. The reaction mixture was filtered and the pH was adjusted to neutral with 50% aqueous sodium hydroxide solution and the volatiles were evaporated under reduced pressure. The product was then isolated via filtration and the filter cake was washed with water. Drying under vacuum at 60° C. for 12 hours yielded 164 g of the product as a white solid in 85 % yield. M.P. 132°-133° C.

reactant | sodium borohydride | 1523 mmol, 57.6 g | [BH4-].[Na+]
reactant | borontrifluoride etherate | 1980 mmol, 250 ml | B(F)(F)F.CCOCC
reactant | 1-(4-toluenesulfonyl)-4-hydroxy-L-proline | 755.4 mmol, 215.3 g | C1(=CC=C(C=C1)S(=O)(=O)N1[C@H](C(=O)O)CC(C1)O)C | C12H15NO5S
solvent | THF | 100 ml | O1CCCC1 | C4H8O
product | (2S, 4R)-2-Hydroxymethyl-4-hydroxy-1-(4-toluenesulfonyl)-pyrrolidine | 164 g, 85 % yield | OC[C@H]1N(C[C@@H](C1)O)S(=O)(=O)C1=CC=C(C=C1)C | C12H17NO4S
